US07365095B2
A solution of [(2R)-8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate (0.24 g, 0.56 mmol) and sodium azide (0.15 g, 2.24 mmol) in anhydrous dimethyl sulfoxide (10 mL) was heated to 70° C. under nitrogen for 15 hours. The cooled reaction mixture was then diluted with diethyl ether (50 mL), washed with water (5×25 mL) and saturated brine (25 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford 0.14 g (82%) of {[(2R)-8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}azide as a colorless oil that was used without further purification.

reactant | [(2R)-8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate | 0.56 mmol, 0.24 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=C2CC1)C1=C(C=CC=C1)Cl | C23H21ClO4S
reactant | sodium azide | 2.24 mmol, 0.15 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | {[(2R)-8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}azide | 0.14 g, 82% | ClC1=C(C=CC=C1)C=1C=CC=C2CC[C@@H](OC12)CN=[N+]=[N-] | C16H14ClN3O
